US06316605B1
0.2 g of tungsten acid sodium salt (II) hydrate was added to 40 ml of an acetic acid solution in which 17.9 g of 2-n-dodecylthio-4 -chloronitrobenzene was mixed, and 12.5 g of a 30% hydrogen peroxide water was added dropwise at an internal temperature of 70° C, and a reaction was carried out at that same temperature over three hours. The reaction solution was cooled to room temperature, and 120 ml of water was added. The precipitated crystals were filtered, washed with water and dried, and 19.5 g of 2-n-dodecylsulfonyl-4-chloronitrobenzene was obtained as a slightly yellow crystal.

reactant | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
reactant | 2-n-dodecylthio-4 -chloronitrobenzene | 17.9 g | C(CCCCCCCCCCC)SC1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C18H28ClNO2S
reactant | hydrogen peroxide water | O.OO
catalyst | tungsten | 0.2 g | [W] | W
solvent | water | 120 ml | O | H2O
product | 2-n-dodecylsulfonyl-4-chloronitrobenzene | 19.5 g | C(CCCCCCCCCCC)S(=O)(=O)C1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C18H28ClNO4S
